US07399759B2
tert-Butyl [methyl(6-cyano-2-pyrazinyl)amino]acetate
2-Chloro-6-cyanopyrazine (2.09 g, 15.0 mmol), sarcosine tert-butyl ester hydrochloride salt (2.72 g, 15.0 mmol) and triethylamine (2.38 ml, 17.0 mmol) were added to DMF (30 ml), and the mixture was stirred at room temperature for 18 hrs. The reaction mixture was combined with ethyl acetate and water. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated to give the titled compound (1.00 g, 27%) as pale yellow crystals.

reactant | 2-Chloro-6-cyanopyrazine | 15.0 mmol, 2.09 g | ClC1=NC(=CN=C1)C#N | C5H2ClN3
reactant | sarcosine tert-butyl ester hydrochloride salt | 15.0 mmol, 2.72 g | Cl.C(C)(C)(C)OC(CNC)=O
reactant | triethylamine | 17.0 mmol, 2.38 ml | C(C)N(CC)CC | C6H15N
reactant | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl [methyl(6-cyano-2-pyrazinyl)amino]acetate | 1.00 g, 27% | CN(C1=NC(=CN=C1)C#N)CC(=O)OC(C)(C)C | C12H16N4O2
